US06770667B1
To a suspension of 5-phenylthiophene-2-carboxylic acid (102 mg) and oxalyl chloride (0.2 ml) in dichloromethane (2 ml) was added N,N-dimethylformamide (0.01 ml), and the mixture was stirred for an hour. The resultant solution was evaporated under reduced pressure to give a crude acid chloride. To a suspension of 3-(1,2-dimethylimidazol-5-yl)aniline (94 mg) and pyridine (0.12 ml) in dichloromethane (2 ml) was dropwise added a solution of the acid chloride obtained above in dichloromethane (2 ml) followed by stirring for 12 hours. The mixture was diluted with dichloromethane and washed with an aqueous solution of sodium hydrogen carbonate and brine. The separated organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 3% methanol in dichloromethane to give N-[3-(2,3-dimethyl-3H-imidazol4-yl)-phenyl]-5-phenyl-thiophene-2-carboxamide (155 mg, 82.9%).

reactant | 5-phenylthiophene-2-carboxylic acid | 102 mg | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O2S
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
reactant | 3-(1,2-dimethylimidazol-5-yl)aniline | 94 mg | CN1C(=NC=C1C=1C=C(N)C=CC1)C | C11H13N3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.12 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(2,3-dimethyl-3H-imidazol4-yl)-phenyl]-5-phenyl-thiophene-2-carboxamide | 155 mg, 82.9% | CC1=NC=C(N1C)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)C1=CC=CC=C1 | C22H19N3OS
